datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])[H:7])([H:5])[H:6],-1.08784
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:7]([C:8]([H:21])([H:22])[H:23])([H:20])[C:6]([H:18])([H:19])[C:5]1([H:16])[H:17])[H:11])([H:9])[H:10],55.8982
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:17])([H:18])[H:19])([O:9][O:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:10][O:9][C:7]([C:6]([C:5]([H:11])([H:12])[H:13])([H:14])[H:15])([C:8]([H:17])([H:18])[H:19])[H:16],103.09376
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7]([C:8]([C:9]([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])[H:13],48.4089
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])([H:5])[H:6],33.6394
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[Cl:6]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][Cl:6],0.623585
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][O:11][H:12]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:10][O:11][H:12],44.978
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6](=[O:7])[H:8]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6](=[O:7])[H:8],54.85224
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:7])([H:10])[H:11])([H:8])[H:9],91.5459
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16],61.8814
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:11](=[C:12]([H:14])[H:15])[H:13])([H:5])[H:6],15.8992
[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])[H:14])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:13],122.850608
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11](=[S:12])[H:20])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:16])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[S:12])[H:20])([H:13])([H:14])[H:15],-21.7568
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14].[O:15][O:16][H:17]>>[C:0]1([H:6])([H:17])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14].[O:15][O:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:14])[H:5].[C:12]([S:13][H:17])([H:15])[H:16],53.5552
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][H:27],18.212952
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][H:26],18.706664
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])([H:11])[O:2]1.[O:3][H:12],43.932
